US04918212
Diethyl (E)-4-[2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propenyl]-benzenephosphonate
20 g (52 millimoles) of (E)-1-(4-bromophenyl)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propene and 0.86 g (7.5 mol %) of anhydrous nickel(II) bromide were heated to about 160° C. under nitrogen in a distillation apparatus equipped with a dropping funnel. 104 g (60 millimoles) of triethyl phosphite were then added dropwise in such a way that the rate of dropwise addition corresponded to the rate at which the ethyl bromide distilled off. Stirring was continued for 0.5 hour, after which the mixture was cooled, a little toluene was added and the mixture was evaporated down. The residue was filtered with ethyl acetate over silica gel. 14.2 g (62%) of the title compound of melting point 72.5°-73.5° C. (from heptane) were obtained in this manner. Preparation of 1-(bromophenyl)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propene

reactant | (E)-1-(4-bromophenyl)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propene | 52 millimoles, 20 g | BrC1=CC=C(C=C1)\C=C(/C)\C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C23H27Br
reactant | triethyl phosphite | 60 millimoles, 104 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | ethyl bromide | C(C)Br | C2H5Br
catalyst | nickel(II) bromide | 0.86 g | [Ni](Br)Br
product | Diethyl (E)-4-[2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propenyl]-benzenephosphonate | 14.2 g, 62% | CC1(C=2C=CC(=CC2C(CC1)(C)C)/C(=C/C1=CC=C(C=C1)P(OCC)(=O)OCC)/C)C | C27H37O3P
